US04845100
127 Milligrams of succinimide 3,4-dihydrocarbostyril-6-carbostyril-6-carboxylate and 117 mg of geranylpiperazine were dissolved in 2 ml of dimethylformamide, and the solution was stirred for 24 hours. To the reaction mixture was added a certain amount of water and then extracted with chloroform, the chloroform layer was washed with water and an aqueous solution saturated with sodium chloride. Then the chloroform extract was dried with anhydrous sodium sulfate, and the solvent was removed by evaporation under reduced pressure. The residue thus obtained was crystallized by adding diethyl dether, and the crystals formed were dispersed in 20 ml of ethanol, then converted into hydrochloride by adding 1.3 ml of concentrated hydrochloric acid. Recrystallized from ethanol-water to obtain 132 mg of 6-(4-geranyl-1-Piperazinyl)-3,4-dihydrocarbostyril.hydrochloride.mono-hydrate. Colorless needle-like crystals. Melting point: 265°-266° C. (dec.)

reactant | geranylpiperazine | 117 mg | C(\C=C(/C)\CCC=C(C)C)N1CCNCC1 | C14H26N2
reactant | water | O | H2O
reactant | hydrochloride | Cl | ClH
reactant | hydrochloric acid | 1.3 ml | Cl | ClH
reactant | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 6-(4-geranyl-1-Piperazinyl)-3,4-dihydrocarbostyril.hydrochloride | 132 mg | Cl.C(\C=C(/C)\CCC=C(C)C)N1CCN(CC1)C=1C=C2CCC(NC2=CC1)=O | InChI=1S/C23H33N3O.ClH/c1-18(2)5-4-6-19(3)11-12-25-13-15-26(16-14-25)21-8-9-22-20(17-21)7-10-23(27)24-22;/h5,8-9,11,17H,4,6-7,10,12-16H2,1-3H3,(H,24,27);1H/b19-11+;
